US05932745
2-(Pyrrolidin-1-yl)-but-3-yne
A solution acetic acid 1-methyl-prop-2-ynyl ester (prepared by the method of Clarke and Pinder, J. Chem. Soc. 1958, 1967).(7 g) and pyrrolidine (10.4 ml) in anhydrous tetrahydrofuran (125 ml) was treated with copper (I) chloride (0.3 g) and the mixture was heated to reflux temperatures for 1.5 hours. After then allowing the mixture to stir at room temperature for approximately 15 hours, the mixture was diluted with diethyl ether, and extracted thrice with 2N aqueous hydrochloric acid. These pooled acidic extracts were basified by addition of solid sodium hydroxide, and the solution was then extracted three times with ethyl acetate. These pooled organic extracts were then washed with water, brine, and dried over anhydrous magnesium sulfate. After removing the solvent in vacuo the resulting residue was distilled to obtain the desired product as a colorless oil. b.p. 35° C. (1.1 mm Hg). MS(+ES), m/z: 124 (M+H)+.

reactant | acetic acid 1-methyl-prop-2-ynyl ester | CC(C#C)OC(C)=O | C6H8O2
reactant | pyrrolidine | 10.4 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | copper (I) chloride | 0.3 g | [Cu]Cl
product | 2-(Pyrrolidin-1-yl)-but-3-yne | N1(CCCC1)C(C)C#C | C8H13N
